US04579585
N[4(1-fluoromethyl-ethyl)phenyl]-formamide
A solution of 20 g (0.13 Mol) of 4(1-fluoromethyl-ethyl)benzeneamine and 6 g (0.13 Mol) of 98% formic acid in 150 ml of dry toluene is boiled under reflux. When 2.5 ml of water have separated in the water trap, an additional 6 g of formic acid are added and refluxing is continued until no more water and formic acid separate.

reactant | 4(1-fluoromethyl-ethyl)benzeneamine | 0.13 Mol, 20 g | FCC(C)C1=CC=C(C=C1)N | C9H12FN
reactant | formic acid | 0.13 Mol, 6 g | C(=O)O | CH2O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N[4(1-fluoromethyl-ethyl)phenyl]-formamide | FCC(C)C1=CC=C(C=C1)NC=O | C10H12FNO
